* pipeline2.0 netlist
* circuit: ic03

VVCC_12 N006 0 DC 12
Xintegrated_circuit11_1 N002 N001 N003 N003 LM317_TRANS
Rlamp13_1 N003 0 12
Cpolarized_capacitor20_1 N002 0 2.2u
Cpolarized_capacitor20_2 N003 N004 10u
Cpolarized_capacitor20_3 N003 N001 10u
Cpolarized_capacitor20_4 N003 N005 10u
Rresistor22_1 N004 N005 10k
Rresistor22_2 N005 0 10k
Rresistor22_3 N001 N004 22k
Rswitch25_1 N006 N002 1m

.include "07_external_models.lib"

.save all
.tran 2ms 20s

.control
set wr_singlescale
set wr_vecnames
run
wrdata 08_tran.csv time v(N001) v(N002) v(N003) v(N004) v(N005) v(N006)
.endc
.end
